US06455521B1
3-Fluoro-8-methyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine is dissolved in carbon tetrachloride and reacted with 2,2′-azobis(isobutylonitrile) in the presence of N-chlorosuccinimide to give 8-chloromethyl-3-fluoro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine.

reactant | 3-Fluoro-8-methyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | FC1=CC2=C(C=C1)C1=C(NC3=C(N=C1N1CCN(CC1)C)C=CC(=C3)C)S2 | C21H21FN4S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-chloromethyl-3-fluoro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | ClCC1=CC2=C(N=C(C3=C(N2)SC2=C3C=CC(=C2)F)N2CCN(CC2)C)C=C1 | C21H20ClFN4S
